US04406690
To 5-methoxy-2-pyridylcarboxylic acid (11.9 g, 77.5 mmol) and DMF (5.4 ml, 69 mmol) in 200 ml of tetrahydrofuran (THF) at 5° is added thionyl chloride (8.4 ml, 116 mmol) over 15 minutes. After addition, the slurry is allowed to warm slowly to RT. After 3 hours, the reaction is rotoevaporated to give 5-methoxy-2-pyridylcarboxylic acid chloride. This acid chloride is gradually added, with cooling, to rapidly stirring ammonium hydroxide (40 ml, 340 mmol), and the slurry is stirred for 1 hour. The reaction is filtered and the residue is dried. To this is added dry toluene, with stirring, followed by filtration. More toluene is added, followed by rotoevaporation to give 5-methoxy-2-pyridylcarboxamide.

reactant | 5-methoxy-2-pyridylcarboxylic acid | 77.5 mmol, 11.9 g | COC=1C=CC(=NC1)C(=O)O | C7H7NO3
reactant | DMF | 69 mmol, 5.4 ml | CN(C)C=O | C3H7NO
reactant | thionyl chloride | 116 mmol, 8.4 ml | S(=O)(Cl)Cl | Cl2OS
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 5-methoxy-2-pyridylcarboxylic acid chloride | COC=1C=CC(=NC1)C(=O)Cl | C7H6ClNO2
